Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Aspirin / Ibuprofen / Prevpac / Betadine Viscous 
Gauze / adhesive / Tamiflu / lisinopril / prednisone / 
famotidine / diazepam / chlorhexidine
 
Attending: ___.
 
Chief Complaint:
multinodular goiter
 
Major Surgical or Invasive Procedure:
total thyroidectomy
 
History of Present Illness:
This patient is a ___ year old female who was diagnosed with MNG 
back in ___. She said that she was out to lunch with a 
friend,when the friend noticed a lump on her neck. She went into 
the doctor and was diagnosed with MNG after examination and 
ultrasound. She received two FNA in ___, one in ___ which were 
benign. A ___ US showed no interval changes in her nodules. In 
___, she started feeling a choking sensation that would come on 
without warning. They were not necessarily associated with 
eating. 

More recently, she has noticed increase in the size of her right 
thyroid nodule. She notes that she has worsened coughing and 
choking sensation recently. She has noticed voice 
changes,especially after continued coughing. She endorses 
dysphagia, odynophagia, difficulty breathing at night while 
laying on her right side. 

She denies any overt symptoms of hyper or hypothyroidism. 

 
Past Medical History:
PMH:
-anemia
-anxiety
-back pain
-colon polyps
-HTN

 
Social History:
___
Family History:
orphan-family history not available 

 
Physical Exam:
GEN: AOx3 WN, WD in NAD
HEENT: NCAT, EOMI, anicteric, mild bruising around incision, no 
swelling
CV: RRR
PULM: unlabored breathing with symmetric chest rise, no
respiratory distress
ABD: soft, NT, ND, no mass, no hernia
EXT: WWP, no CCE, no tenderness, 2+ B/L ___

 
Pertinent Results:
___ 09:12AM BLOOD Calcium-9.1
___ 03:36PM BLOOD Calcium-9.1
___ 09:12AM BLOOD ___-36
___ 03:36PM BLOOD ___ F with HTN & symptomatic multinodular goiter s/p total 
thyroidectomy. She tolerated the procedure without complication. 
Refer to operative report dictated separately. She was brought 
to the PACU for close monitoring before being transferred to the 
floor for continued observation. 

Postoperatively she had nausea and dizziness, which improved 
with antiemetics. She reports mild pain around incision, but no 
difficulty breathing, difficulty speaking or swallowing. 
POD #0, Ca 9.1, PTH 33. Patient reported mild tongue tingling on 
POD #1,Ca 9.1, PTH 36. In the afternoon her symptoms had 
resolved. She did not experience any difficulty breathing or 
sensation of swelling in the neck. 

POD #1 Patient pain was well controlled, she was tolerating a 
diet, and voiding independently, and ambulating without 
concern.She was discharged home with follow-up instructions and 
verbalized good understanding.
 
Medications on Admission:
CLONAZEPAM - clonazepam 0.5 mg tablet. 1 Tablet(s) by mouth at
bedtime use sparingly

RANITIDINE HCL [ZANTAC] - Zantac 150 mg tablet. 1 tablet(s) by
mouth PRN

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H Duration: 36 Hours  
2.  Calcium Carbonate 1000 mg PO TID:PRN tingling or numbness 
Please purchase TUMS over the counter and take if you have 
symptoms.  
3.  Levothyroxine Sodium 100 mcg PO DAILY 
RX *levothyroxine 100 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
multinodular goiter

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ overnight for observation following 
your surgery. You did well postoperatively and were discharged 
home once you were eating, on oral medications, walking, and 
completing daily activities per normal. 
Medications: You were started on thyroid hormone medication,take 
as prescribed. For pain medication you may take acetaminophen 
(Tylenol) as directed.

Your calcium level is normal at discharge and no calcium 
supplement is needed. However if you develop tingling or 
numbness around your mouth or fingertips this may be a sign of a 
low calcium and you should take Tums 2 tablets three times a day 
and call our office.  If you develop severe symptoms, please go 
to emergency room.

Wound care: You may shower normally. Allow warm soapy water to 
run over the wound, rinse and pat dry gently. There is no need 
to keep a dressing over the wound. Do not apply creams or 
ointments. Do not submerge the wound in a swimming pool or bath 
until cleared at your follow up visit. Do  not pull off the 
steri strip tapes--these will fall off by themselves over the 
next ___ weeks.

Diet:
You may resume your regular home diet without restriction. You 
should use stick to foods that do not upset your stomach. You 
may need to start with small meals first and may not feel very 
hungry at first. This will improve over time. You may supplement 
your diet with protein shakes as needed if you do not feel you 
are taking in enough nutrition.

Activity:
You may resume all of your normal home activities, except for 
straining or lifting heavy weight. We recommend you resume 
walking, exercise, bathing, per your normal regimen. 

Warning signs:
You should contact our clinic or return to the ED immediately if 
you experience any of the following signs or symptoms:
Fever above 101.5
Worsening pain
Worsening GI upset, nausea/vomiting, diarrhea
Change in the appearance of your incision, or redness, swelling, 

or change in drainage from your incision
Any other symptoms that concern you

You can contact our clinic at any time with questions or 
concerns. You should be seen in our clinic for follow up 
following your discharge from the hospital. 

Best wishes,
Your ___ Care Team

 
Followup Instructions:
___